US03968116
5-Chloro-3-nitro-2-aminopyridine is reacted with 2,2,3,3-tetrafluoropropionyl chloride to yield 5-chloro-3-nitro-2-(2,2,3,3-tetrafluoropropionamido)pyridine, which when hydrogenated yields 6-chloro-1-hydroxy-2-(1,1,2,2-tetrafluoroethyl)-1H-imidazo-(4,5-b)pyridine. This compound is reacted with trimethylamine to prepare 6-chloro-1-hydroxy-2-(1,1,2,2-tetrafluoroethyl)-1H-imidazo-(4,5-b)pyridine trimethylamine salt.

reactant | 5-Chloro-3-nitro-2-aminopyridine | ClC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | 2,2,3,3-tetrafluoropropionyl chloride | FC(C(=O)Cl)(C(F)F)F | C3HClF4O
product | 5-chloro-3-nitro-2-(2,2,3,3-tetrafluoropropionamido)pyridine | ClC=1C=C(C(=NC1)NC(C(C(F)F)(F)F)=O)[N+](=O)[O-] | C8H4ClF4N3O3
